US05145986
Preparation of 2-(o-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(o-chlorobenzyl)-2,2,2-trifluoroacetimidoyl chloride (10.0 g, 0.039 mol) and 2-chloroacrylonitrile (4.1 g, 0.047 mol) in N,N-dimethylformamide is cooled to 5° C. and treated with a solution of triethylamine (12.0 mL, 0.086 mol) in N,N-dimethylformamide (10 mL). When the addition is one-quarter complete, the cooling bath is removed and the reaction mixture is treated with the remaining triethylamine solution, stirred for three hours, diluted with water and extracted with methylene chloride. The combined organic extracts are washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain an oil. Flash chromatography of the oil using silica gel and a 1:6 ethyl acetate/heptane solution gives an oil. Crystallization of the oil from heptane gives the title product as a solid (8.5 g, mp 151°-152.5° C.).

reactant | N-(o-chlorobenzyl)-2,2,2-trifluoroacetimidoyl chloride | 0.039 mol, 10.0 g | ClC1=C(CN=C(C(F)(F)F)Cl)C=CC=C1 | C9H6Cl2F3N
reactant | 2-chloroacrylonitrile | 0.047 mol, 4.1 g | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 0.086 mol, 12.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(o-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 8.5 g | ClC1=C(C=CC=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
